US07625914B2
0.65 g (1.1 mmol) of methyl 2(S)-ethoxy-3-(4-{6-[methyl-(4-nitrophenoxycarbonyl)amino]pyrid-2-yl}phenyl)propanoate, 12 ml of dimethylformamide and 1 ml (8.8 mmol) of pentylamine are heated at 80° C. for 18 hours. After addition of water, the reaction medium is extracted with ethyl acetate. The ethyl acetate phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by thin-layer chromatography on silica eluted with a 7/3 and then 6/4 heptane/ethyl acetate mixture. 0.35 g (76%) of methyl 2(S)-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}propanoate is obtained.

reactant | methyl 2(S)-ethoxy-3-(4-{6-[methyl-(4-nitrophenoxycarbonyl)amino]pyrid-2-yl}phenyl)propanoate | 1.1 mmol, 0.65 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C | C25H25N3O7
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
reactant | pentylamine | 8.8 mmol, 1 ml | C(CCCC)N | C5H13N
solvent | water | O | H2O
product | methyl 2(S)-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}propanoate | 0.35 g, 76% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCC)C | C24H33N3O4
